US04552889
(αS)-3-(mercaptomethyl)-α,3-dimethyl-2-oxo-1-pyrrolidineacetic acid
Two grams of (αS)-3-(benzylmercaptomethyl)α,3-dimethyl-2-oxo-1-pyrrolidineacetic acid were dissolved in about 15 ml. of tetrahydrofuran. This solution was then added to liquid ammonia. Small pieces of sodium metal were added until a blue color persisted. The reaction was then quenched by the addition of about two grams of ammonium chloride. The ammonia was evaporated and water was added to the residue. The slurry was made acidic with hydrochloric acid, saturated with sodium chloride and the acidic solution was extracted with chloroform. The chloroform extract was washed with a saturated sodium chloride solution, dried over magnesium sulfate and evaporated to dryness. Two crystallizations of the resulting solid from diethylether/Skelly B gave 0.5 g. of the desired title product, m.p. about 132°-133° C. [α]D25 =-23.78° (c=1, methanol).

reactant | (αS)-3-(benzylmercaptomethyl)α,3-dimethyl-2-oxo-1-pyrrolidineacetic acid | Two grams | C(C1=CC=CC=C1)SCC1(C(N(CC1)[C@H](C(=O)O)C)=O)C | C16H21NO3S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ammonia | N | H3N
reactant | sodium | [Na] | Na
solvent | methanol | CO | CH4O
product | (αS)-3-(mercaptomethyl)-α,3-dimethyl-2-oxo-1-pyrrolidineacetic acid | SCC1(C(N(CC1)[C@H](C(=O)O)C)=O)C | C9H15NO3S
